US05670503
To a suspension of 7-(4-fluorophenyl)-8-(pyridin-4-yl)pyrazolo[5,1-c][1,2,4]triazine (2.2 g) in methanol (20 ml) was added sodium cyanoborohydride (480 mg). The pH of the mixture was maintained at 3 to 4 for 2 hours with 1N hydrochloric acid. The procedure was repeated three additional times to completely finish the reduction. Then, the mixture was concentrated in vacuo and the residue was dissolved in 2N hydrochloric acid. The mixture was stirred at 80° C. for 30 minutes and cooled. The solution was neutralized with an aqueous saturated sodium bicarbonate solution. The separated solid was collected, washed with water and methanol and dried to give 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (2.06 g).

reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)pyrazolo[5,1-c][1,2,4]triazine | 2.2 g | FC1=CC=C(C=C1)C1=NN2C(N=NC=C2)=C1C1=CC=NC=C1 | C16H10FN5
reactant | sodium cyanoborohydride | 480 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 2.06 g | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
